### PR TITLE
[Merged by Bors] - feat(Condensed): prove the explicit sheaf condition for a general target category

### PR DESCRIPTION
**Pull request by dagurtomas**
- [x] depends on: #12909 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coherent/ExtensiveSheaves.lean [hunk 1]
```diff
@@ -88,10 +89,32 @@ theorem isSheaf_iff_preservesFiniteProducts [FinitaryExtensive C] (F : Cᵒᵖ 
...
+/--
+A presheaf on a category which is `FinitaryExtensive` is a sheaf iff it preserves finite products.
+-/
+theorem Presheaf.isSheaf_iff_preservesFiniteProducts {D : Type*} [Category D]
+    [FinitaryExtensive C] (F : Cᵒᵖ ⥤ D) :
+    IsSheaf (extensiveTopology C) F ↔ Nonempty (PreservesFiniteProducts F) := by
+  constructor
+  · intro h
+    rw [IsSheaf] at h
+    refine ⟨⟨fun J _ ↦ ⟨@fun K ↦ ⟨@fun c hc ↦ ?_⟩⟩⟩⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/ExtensiveSheaves.lean:107]: Instead of `@fun`, you may favour the `fun {x}` syntax.

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/ExtensiveSheaves.lean]: Ah thanks, that's nicer!

**Comment by joelriou** [comment]
Thanks!

bors merge
